US04482710
2 g of 3-acetoxymethyl-7-chloroacetamido-3-cephem-4-carboxylic acid and 483 mg of sodium hydrogen carbonate were dissolved in 20 ml of 60% v/v aqueous methanol, and 30 g of anhydrous calcium chloride were added. The mixture was then stirred at 70° C. for 50 minutes, after which it was diluted with 50 ml of ice-water, its pH was adjusted to a value of 1-2 by the addition of hydrochloric acid, and it was extracted three times, each time with 50 ml of ethyl acetate. The ethyl acetate extracts were combined, washed with an aqueous solution of sodium chloride, dehydrated over anhydrous magnesium sulphate and concentrated by evaporation under reduced pressure to give 1.3 g of 7-chloroacetamido-3-methoxymethyl-3-cephem-4-carboxylic acid in an impure state as an amorphous solid.

reactant | 3-acetoxymethyl-7-chloroacetamido-3-cephem-4-carboxylic acid | 2 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(CCl)=O)=O | C12H13ClN2O6S
reactant | sodium hydrogen carbonate | 483 mg | C(O)([O-])=O.[Na+]
reactant | calcium chloride | 30 g | [Cl-].[Ca+2].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | 7-chloroacetamido-3-methoxymethyl-3-cephem-4-carboxylic acid | 1.3 g | ClCC(=O)NC1[C@@H]2N(C(=C(CS2)COC)C(=O)O)C1=O | C11H13ClN2O5S
